US08445684B2
4-[2-(4-Methoxybenzyloxy)ethyl]piperidine
NaH (60% dispersion in oil, 98 mg, 2.4 mmol, 1.2 equiv.) was added to a solution of 1-(tert-butoxycarbonyl)-4-(2-hydroxyethyl)piperidine (468 mg, 2.0 mmol) in THF (10 mL) at 0° C. under Ar protection. The mixture was warmed to room temperature and stirred at that temperature for 3 h. 1-(Bromomethyl)-4-methoxybenzene (353 μL, 2.4 mmol, 1.2 equiv.) was added at room temperature. After stirring for 20 h, the reaction was quenched with saturated aqueous NH4Cl solution. The mixture was extracted three times with EtOAc, and the combined organic layers were washed with brine and dried over Na2SO4. The solvent was removed, and the residue was purified by CC (SiO2, hexane/EtOAc 10:1 to 4:1) to afford the product (268 mg, 38%) as a yellow oil. 1H NMR (CDCl3, 400 MHz) δ 7.22 (d, 2H, J=8.4 Hz), 6.85 (d, 2H, J=8.8 Hz), 4.40 (s, 2H), 4.05 (m, 2H), 3.76 (m, 4H), 3.45 (t, 2H, J=6.0 Hz), 2.65 (m, 2H), 1.62-1.50 (m, 5H), 1.44 (s, 9H), 1.08 (m, 2H).

reactant | NaH | 2.4 mmol, 98 mg, 1.2 equiv. | [H-].[Na+]
reactant | 1-(tert-butoxycarbonyl)-4-(2-hydroxyethyl)piperidine | 2.0 mmol, 468 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CCO | C12H23NO3
reactant | 1-(Bromomethyl)-4-methoxybenzene | 2.4 mmol, 353 μL, 1.2 equiv. | BrCC1=CC=C(C=C1)OC | C8H9BrO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-[2-(4-Methoxybenzyloxy)ethyl]piperidine | 268 mg, 38% | COC1=CC=C(COCCC2CCNCC2)C=C1 | C15H23NO2
